US06353007B1
A solution of 2-methylindol (1 g, 7.6 mmol) and potassium t-butoxide (897 mg, 8 mmol) in DMSO (10 mL) was stirred at room temperature under argon for 30 min. 4-Fluoronitrobenzene (0.81 mL, 7.62 mmol) was added and the reaction mixture was heated to 100° C. in an oil bath for 5 h. The reaction mixture was diluted with water, extracted with EtOAc, the organic extract with washed with water and dried (MgSO4). The oil obtained on concentration was flash chromatographed on silica gel and elution was -carried out with a gradient of 5-8% EtOAc in hexane to give 1-(4-nitrophenyl)-2-methylindol (500 mg).

reactant | 2-methylindol | 7.6 mmol, 1 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | potassium t-butoxide | 8 mmol, 897 mg | CC(C)([O-])C.[K+]
reactant | 4-Fluoronitrobenzene | 7.62 mmol, 0.81 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(4-nitrophenyl)-2-methylindol | 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C | C15H12N2O2
